US03932465
A solution of 7.8 g of 3-acetyloxymethyl-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid in 60 ml of trifluoroacetic acid, prepared at room temperature within 15 minutes, is treated with an equal volume of toluene and evaporated to dryness. The residue, which contains the 7β-phenylacetyl-amino-3-trifluoroacetyloxymethyl-ceph-2-em-4ξ-carboxylic acid, is dissolved in 200 ml of dry formamide and treated with 5.80 ml of furan. After reacting for 1 hour at 50° under nitrogen, the reaction mixture is cooled and treated with ethyl acetate and 10% aqueous dipotassium hydrogen phosphate solution (pH 7.5). The aqueous solution is separated and washed several times with ethyl acetate. The aqueous phase is adjusted to pH 2.5 with 20% aqueous phosphoric acid and extracted with ethyl acetate. The resulting organic extract is washed with water and a saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated under reduced pressure. The solid residue is crystallised from ethal acetate to yield the almost pure 3-furfuryl-7β-phenylacetyl-amino-ceph- 2-em-4ξ-carboxylic acid, which after repeated recrystallisation from ethyl acetate melts at 188°-190°: thin-layer chromatogram (silica gel): Rf = 0.75 (system n-butanol/acetic acid/water 67:10: 23) and Rf = 0.53 (system n-butanol/ethanol/water 40:10:50); ultraviolet absorption spectrum (in methanol): strong terminal absorption; infrared absorption spectrum (in mineral oil); characteristic bands at 3,01μ, 5,66μ, 5,75μ, 6,02μ and 6,54μ.

reactant | 3-acetyloxymethyl-7β-phenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid | 7.8 g | C(C)(=O)OCC1=C(S[C@H]2N(C1C(=O)O)C([C@H]2C(CC2=CC=CC=C2)=O)=O)N | C18H18N2O6S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-furfuryl-7β-phenylacetyl-amino-ceph- 2-em-4ξ-carboxylic acid | C(C1=CC=CO1)C1=C(S[C@H]2N(C1C(=O)O)C([C@H]2C(CC2=CC=CC=C2)=O)=O)N | C20H18N2O5S
